US08859814B2
To a mixture of 1.0 g (5.1 mmol) of 4-bromoindole and 0.12 g (1.0 mmol) of DMAP in 10 mL of MeCN is added 1.3 g (6.1 mmol) of Boc2O in small portions. After stirring for 2 days, the mixture is concentrated to provide 1.4 g (93%) of N-Boc-4-bromoindole. To 2.0 g (6.7 mmol from multiple experiments) of N-Boc-4-bromoindole in 20 mL of THF at −78° C. is added 5.0 mL (7.0 mmol) of 1.6 M BuLi. After stirring for 30 min, SO2 is gently bubbled through the mixture for 10 min, and then the mixture is warmed to rt over 4 h and concentrated to provide 2.5 g of 75% pure lithum 1-(tert-butoxycarbonyl)-1H-indole-4-sulfinic acid.

reactant | 4-bromoindole | 5.1 mmol, 1.0 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | Boc2O | 6.1 mmol, 1.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.0 mmol, 0.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | N-Boc-4-bromoindole | 1.4 g, 93% | C(=O)(OC(C)(C)C)N1C=CC2=C(C=CC=C12)Br | C13H14BrNO2
